US09108939B2
1-(4-((1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methyl)phenyl)-3-(1-oxo-tetrahydro-thiophen-3-yl)urea
To an ice-cooled solution of 1-(4-((1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methyl)phenyl)-3-(tetrahydrothiophen-3-yl)urea (0.243 mmol, 140 mg) in dichloromethane was added 3-chloroperoxybenzoic acid (0.243 mmol, 54.5 mg) and the resulting mixture was stirred for 30 minutes. Additional 3-chloroperoxybenzoic acid (0.243 mmol, 54.5 mg) was added and reaction stirred for 1.5 hours. The reaction was concentrated under vacuum. The residue was purified by silica column chromatography (eluent: 2% methanol in dichloromethane-7% methanol in dichloromethane) and SCX chromatography to give the title compound (77.1 mg).

reactant | 1-(4-((1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methyl)phenyl)-3-(tetrahydrothiophen-3-yl)urea | 0.243 mmol, 140 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)CC2=CC=C(C=C2)NC(=O)NC2CSCC2)C=C1)(F)F | C27H31F6N3O2S
reactant | 3-chloroperoxybenzoic acid | 0.243 mmol, 54.5 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 3-chloroperoxybenzoic acid | 0.243 mmol, 54.5 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(4-((1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methyl)phenyl)-3-(1-oxo-tetrahydro-thiophen-3-yl)urea | 77.1 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)CC2=CC=C(C=C2)NC(=O)NC2CS(CC2)=O)C=C1)(F)F | C27H31F6N3O3S
